US05721234
2-Carboxyethyl-1-indanone
A mixture of 1-indanone (26.4 g, 0.2 mol), diethyl carbonate (35.4 g, 0.3 mol) and sodium hydride (16 g, 0.4 mol, 60% in oil) in THF (600 mL) was stirred at 40° C. for 2 h. The mixture was then poured onto 500 mL of 2N HCl and ice. The organic phase was separated, and the aqueous phase extracted with ether. The combined organic layers were washed with saturated NaCl, dried over Magnesium sulfate, filtered and evaporated to give the product as a syrup (38.3 gm).

reactant | 1-indanone | 0.2 mol, 26.4 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | diethyl carbonate | 0.3 mol, 35.4 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 0.4 mol, 16 g | [H-].[Na+]
reactant | HCl | 2N, 500 mL | Cl | ClH
reactant | THF | 600 mL | C1CCOC1 | C4H8O
product | 2-Carboxyethyl-1-indanone | 38.3 gm | C(=O)(O)CCC1C(C2=CC=CC=C2C1)=O | C12H12O3
